Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Effexor / Robitussin
 
Attending: ___.
 
Chief Complaint:
Morbid obesity
 
Major Surgical or Invasive Procedure:
___: 
1. laparoscopic sleeve gastrectomy
2. laparoscopic hiatal hernia repair
3. liver biopsy

 
History of Present Illness:
Per Dr. ___ has class III morbid obesity with 
weight of 251.6 pounds as of ___ with her initial screen 
weight of 257.6 pounds on ___. Her previous weight loss 
efforts have included Weight Watchers multiple times, the ___ 
and ___ diets, soup diet, protein sparing modified fast 
(PSMF) and the soup diet losing up to 40 pounds but her attempts 
have failed to produce lasting results. She has not taken 
prescription weight loss medications or used over-the-counter 
dietary supplements/herbal products.  She stated that her lowest 
adult weight was 170 pounds at age ___ and her highest weight was 
259 pounds ___. She weighed 181 pounds in ___, 252 pounds 
___ years ago, 245 pounds in ___ and 257 pounds one year ago. She 
stated that she has been struggling with weight since having 
children and she cited as factors contributing to her excess 
weight genetics, large portions, late-night eating, convenience 
eating, too many carbohydrates and saturated fats, boredom and 
lack of exercise regimen. She recently started to walk more ___ 
times a week, uses resistance bands/light weights 2 times a 
week.  She denied history of eating disorders - no anorexia, 
bulimia, diuretic or laxative abuse and she denied binge eating. 
She does have depression but is not currently followed by a 
therapist nor has she been hospitalized for mental health issues 
and she is on psychotropic medication (duloxetine).

 
Past Medical History:
1)  moderate obstructive sleep apnea on CPAP
2)  hypothyroidism
3)  hepatic steatosis (liver biopsy - mild fibrosis ___
4)  gallbladder polyp (0.4 cm)
5)  hyperlipidemia
6)  vitamin D deficiency
7)  osteopenia
8)  h/o migraine headaches
9)  colonic adenoma
10) allergic rhinitis
11) lichen simplex chronicus
12) ptosis
13) HSV-2 positive antibodies

Her only surgical history is noted for liver biopsy in ___.

 
Social History:
___
Family History:
Her family history is noted for father deceased age ___ of lung 
CA; mother deceased age ___ with diabetes, hypertension and 
obesity; 2 brothers one deceased with prostate CA, 1 with colon 
CA and another with kidney disease; paternal aunt with history 
of breast CA.
 
Physical Exam:
T 98.1 BP 142/67 P 68 RR ___ Ra  
GEN: no acute distress
CARDIAC: regular rate and rhythm, no murmurs appreciated
RESP: clear to auscultation, bilaterally; no respiratory 
distress
ABD: soft, non-distended, appropriately tender to palpation 
without rebound tenderness/guarding
WOUNDS: abdominal lap sites with primary dressing, CDI
EXT: no lower extremity edema or tenderness, bilaterally
 
Brief Hospital Course:
Ms. ___ is a ___ with morbid obesity who underwent a 
laparoscopic sleeve gastrectomy, hiatal hernia repair and liver 
biopsy on ___ please see operative note for 
details. Pt was extubated, taken to the PACU until stable, then 
transferred to the ward for observation.  
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with a pre-operative TAP 
block, intravenous ketorolac and acetaminophen an oral 
gabapentin.   
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  
GI/GU/FEN: The patient was initially kept NPO. Afterwards, the 
patient was started on a stage 1 bariatric diet, which the 
patient tolerated well. Subsequently, the patient was advanced 
to stage 2, which the patient was tolerating on day of 
discharge.  
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.  
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.  
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a 
bariatric stage 2 diet, ambulating, voiding without assistance, 
and pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.  
 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Clobetasol Propionate 0.05% Ointment 1 Appl TP ASDIR 
2. Hydrocortisone Oint 0.5% 1 Appl TP BID 
3. DULoxetine 60 mg PO DAILY 
4. Levothyroxine Sodium 125 mcg PO DAILY 
5. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 650 mg/20.3 mL 20 ml by mouth every six (6) 
hours Disp #*300 Milliliter Refills:*0 
2.  Famotidine 20 mg PO BID 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
3.  Clobetasol Propionate 0.05% Ointment 1 Appl TP ASDIR  
4.  DULoxetine 60 mg PO DAILY 
Please open capsule, sprinkle contents onto applesauce; instruct 
whole  
5.  Hydrocortisone Oint 0.5% 1 Appl TP BID  
6.  Levothyroxine Sodium 125 mcg PO DAILY  
7.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Morbid obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You have undergone a laparoscopic sleeve gastrectomy, recovered 
in the hospital and are now preparing for discharge to home with 
the following instructions:

Please call your surgeon or return to the Emergency Department 
if you develop a fever greater than ___ F, shaking chills, chest 
pain, difficulty breathing, pain with breathing, cough, a rapid 
heartbeat, dizziness, severe abdominal pain, pain unrelieved by 
your pain medication, a change in the nature or severity of your 
pain, severe nausea, vomiting, abdominal bloating, severe 
diarrhea, inability to eat or drink, foul smelling or colorful 
drainage from your incisions, redness, swelling from your 
incisions, or any other symptoms which are concerning to you.  
Diet: Stay on Stage II diet until your follow up appointment; 
this stage was previously called stage III and consists of 
protein shakes, sugar free smooth pudding/ yogurt, etc; please 
refer to your work book for detailed instructions. Do not self- 
advance your diet and avoid drinking with a straw or chewing 
gum. To avoid dehydration, remember to sip small amounts of 
fluid frequently throughout the day to reach a goal of 
approximately ___ mL per day. Please note the following signs 
of dehydration: dry mouth, rapid heartbeat, feeling dizzy or 
faint, dark colored urine, infrequent urination.  
Medication Instructions:  
Please refer to the medication list provided with your discharge 
paperwork for detailed instruction regarding your home and newly 
prescribed medications.  
Some of the new medications you will be taking include:  
1. Pain medication: You will receive a prescription for liquid 
acetaminophen (Tylenol), do not exceed 3000 mg per 24 hour 
period.  
2. Antacids: You will be taking famotidine tablets, 20 mg twice 
daily, for one month. This medicine reduces stomach acid 
production. Please crush.  
3. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) unless approved by your Weight Loss Surgery team. 
Examples include, but are not limited to Aleve, Arthrotec, 
aspirin, Bufferin, diclofenac, Ecotrin, etodolac, ibuprofen, 
Indocin, indomethacin, Feldene, ketorolac, meclofenamate, 
meloxicam, Midol, Motrin, nambumetone, Naprosyn, Naproxen, 
Nuprin, oxaprozin, Piroxicam, Relafen, Toradol and Voltaren. 
These agents may cause bleeding and ulcers in your digestive 
system. If you are unclear whether a medication is considered an 
NSAID, please ask call your nurse or ask your pharmacist.  
4. Vitamins/ minerals: You may resume a chewable multivitamin, 
however, please discuss when to resume additional vitamin and 
mineral supplements with your bariatric dietitian.  
Activity:  
You should continue walking frequently throughout the day right 
after surgery; you may climb stairs.  
You may resume moderate exercise at your discretion, but avoid 
performing abdominal exercises or lifting items greater than10 
to 15 pounds for six weeks.  
Wound Care:  
You may remove any remaining gauze from over your incisions. You 
will have thin paper strips (Steri-Strips) over your incision; 
please, remove any remaining Steri-Strips seven to 10 days after 
surgery.  
You may shower 48 hours following your surgery; avoid scrubbing 
your incisions and gently pat them dry. Avoid tub baths or 
swimming until cleared by your surgeon.  
If there is clear drainage from your incisions, cover with 
clean, dry gauze.  
Please call the doctor if you have increased pain, swelling, 
redness, cloudy, bloody or foul smelling drainage from the 
incision sites.  
Avoid direct sun exposure to the incision area for up to 24 
months.  
Do not use any ointments on the incision unless you were told 
otherwise.  

 
Followup Instructions:
___